US08247403B2
(1) tert-butyl 9-[1-(trifluoromethyl)ethenyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (328 mg, 1.00 mmol), 1-(trifluoromethyl)vinylboronic acid pinacol ester (222 mg, 1.00 mmol), saturated aqueous sodium carbonate solution (6 ml) and tetrakis(triphenylphosphine)palladium(0) (32.6 mg, 0.0282 mmol) in dimethoxyethane (10 ml) was stirred at 85° C. for 12 hr under a nitrogen atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give the desired product (300 mg, 87.5%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.00 mmol, 328 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 1-(trifluoromethyl)vinylboronic acid pinacol ester | 1.00 mmol, 222 mg | FC(C(=C)B1OC(C)(C)C(C)(C)O1)(F)F | C9H14BF3O2
reactant | sodium carbonate | 6 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0282 mmol, 32.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-[1-(trifluoromethyl)ethenyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 300 mg, 87.5% | FC(C(=C)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)(F)F | C17H20F3NO3
